US07521447B2
Step A: 1,2-Dibromo-4-methyl-5-nitrobenzene:
3,4-dibromotoluene (108.11 mL, 800 mmol) was added dropwise over 4 hours to nitric acid (90%, 280 mL, 6000 mmol) that was cooled to 0° C. under a nitrogen atmosphere with 10 mechanical stirring. The internal temperature of the mixture was maintained below 10° C. during the addition and was stirred for 1 hour at 0° C. after completion of addition. Water (840 mL) was added drop-wise to the mixture maintaining the internal temperature below 10° C. The crude product was collected by filtration and was washed with water (5×500 mL) to remove the excess nitric acid. The solids were dried under high vacuum and purified by recrystallization from ethanol (800 mL) to produce 180.9 g (77% yield) of the desired product as a solid. 1H NMR (400 mHz, CDCl3) δ 8.24 (s, 1H), 7.64 (s, 1H), 2.55 (s, 3H)

reactant | 3,4-dibromotoluene | 800 mmol, 108.11 mL | BrC=1C=C(C=CC1Br)C | C7H6Br2
reactant | nitric acid | 6000 mmol, 280 mL | [N+](=O)(O)[O-] | HNO3
solvent | Water | 840 mL | O | H2O
product | 1,2-Dibromo-4-methyl-5-nitrobenzene | 180.9 g, 77% yield | BrC1=C(C=C(C(=C1)[N+](=O)[O-])C)Br | C7H5Br2NO2
